US05556864
2-[2-(3-Chlorophenyl)ethyl]phenol
The whole of this benzyl 2-[2-(3-chlorophenyl)ethyl]phenyl ether was dissolved in 50 ml of methylene chloride, and 17 ml of a 1M solution of boron tribromide in methylene chloride were added to the solution, whilst ice-cooling. The mixture was then allowed to stand at room temperature for 2 hours. At the end of this time, the solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 10:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 3.80 g (yield 99%) of the title compound as a solid.

reactant | benzyl 2-[2-(3-chlorophenyl)ethyl]phenyl ether | ClC=1C=C(C=CC1)CCC1=C(C=CC=C1)OCC1=CC=CC=C1 | C21H19ClO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(3-Chlorophenyl)ethyl]phenol | 3.80 g, yield 99% | ClC=1C=C(C=CC1)CCC1=C(C=CC=C1)O | C14H13ClO
